US07847019B2
Synthesis of 9-Allylcarbazole (15).
Carbazole (10.1 g, 0.057 mol) and potassium hydroxide (88% wt pellets, crushed, 7.1 g, 0.11 mol) were stirred in 100 mL DMSO at 50° C. for 30 min before dropwise addition of allyl bromide (14.7 g, 0.118 mol). After 15 min the reaction mixture was poured into a 500 mL separatory funnel containing 100 mL chloroform and washed 5 times with 200 mL water to give, after solvent evaporation at 60° C. under reduced pressure, compound 15 in >99% purity as a dark brown, viscous syrup which solidified upon cooling (11.9 g, 0.057 mol, 100% yield). 1H NMR (300 MHz, CDCl3): δ=8.14-8.06 (m, 2 carbazole H), 7.49-7.32 (m, 4 carbazole H), 7.28-7.19 (m, 2 carbazole H), 6.04-5.90 (m, CH═CH2), 5.19-5.10 (m, Z-HCH═CH), 5.07-4.97 (m, E-HCH═CH), 4.92-4.85 (m, NCH2). 13C NMR (300 MHz, CDCl3): δ=140.34, 132.27, 125.67, 122.90, 120.33, 119.00, 116.74, 108.74, 45.21.

reactant | Carbazole | 0.057 mol, 10.1 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | potassium hydroxide | 0.11 mol, 7.1 g | [OH-].[K+]
reactant | allyl bromide | 0.118 mol, 14.7 g | C(C=C)Br | C3H5Br
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 9-Allylcarbazole | 100% yield | C(C=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H13N
